US04229375
1.75 g (0.01 mole) of 1-cyanotricyclo[4.3.1.12,5 ]undecane in 30 ml of dry tetrahydrofuran was added dropwise to 0.45 g of lithium aluminum hydride suspended in tetrahydrofuran. After the addition, the resulting mixture was stirred under reflux for 2 hours. Thereafter, the same procedure was repeated as in Example 1 to afford 1-aminomethyltricyclo[4.3.1.12,5 ]undecane in a yield of 91%.

reactant | 1-cyanotricyclo[4.3.1.12,5 ]undecane | 0.01 mole, 1.75 g | C(#N)C12C3CCC(C(CCC1)C2)C3 | C12H17N
reactant | lithium aluminum hydride | 0.45 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-aminomethyltricyclo[4.3.1.12,5 ]undecane | yield of 91% | NCC12C3CCC(C(CCC1)C2)C3 | C12H21N
